US07737149B2
N-[5-[2-(3-Methoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-pyrazol-1-yl-benzamide
5-[2-(3-Methoxyphenyl)ethyl]-2-tert-butyl-pyrazol-3-amine (0.2 g, 0.73 mmol) was dissolved in toluene (10 ml) and to this was added methyl 4-pyrazol-1-ylbenzoate (177 mg, 0.88 mmol) and AlMe3 (0.93 ml, 1.8 mmol). The reaction mixture was stirred overnight. The reaction mixture was diluted with DCM (15 ml), quenched with damp sodium sulfite and further stirred for 20 mins before being filtered. The solvent was removed in vacuo to yield a yellow gum. This gum was dissolved in formic acid (12 ml) and heated at 82° C. overnight. The reaction mixture was evaporated to dryness and the resulting product was passed through a SCX column, eluting initially with methanol followed by 2N ammonia/methanol. After solvent removal, a yellow solid was obtained which was triturated with hot acetonitrile to afford a white solid. The solid was filtered and dried (155 mg, 55%); 1H NMR (400.132 MHz, DMSO) δ 2.92 (s, 4H), 3.74 (s, 3H), 6.48 (s, 1H), 6.60 (s, 1H), 6.77 (d, 1H), 6.84-6.82 (m, 2H), 7.20 (t, 1H), 7.81 (s, 1H), 7.96 (d, 2H), 8.14 (d, 2H), 8.63 (s, 1H), 10.69 (s, 1H), 12.18 (s, 1H); MS: m/z 388 (MH+).

reactant | 5-[2-(3-Methoxyphenyl)ethyl]-2-tert-butyl-pyrazol-3-amine | 0.73 mmol, 0.2 g | COC=1C=C(C=CC1)CCC=1C=C(N(N1)C(C)(C)C)N | C16H23N3O
reactant | methyl 4-pyrazol-1-ylbenzoate | 0.88 mmol, 177 mg | N1(N=CC=C1)C1=CC=C(C(=O)OC)C=C1 | C11H10N2O2
reactant | AlMe3 | 1.8 mmol, 0.93 ml | C[Al](C)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | formic acid | 12 ml | C(=O)O | CH2O2
product | N-[5-[2-(3-Methoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-pyrazol-1-yl-benzamide | COC=1C=C(C=CC1)CCC=1C=C(NN1)NC(C1=CC=C(C=C1)N1N=CC=C1)=O | C22H21N5O2
